US07429609B2
3-[(E)-2-(4-Fluorophenyl)-vinyl]-4-(2-hydroxyethoxy)-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-ethyl ester
To a solution of 147 mg of 3-[(E)-2-(4-fluorophenyl)-vinyl]-4-[2-(tetrahydropyran-2-yloxy)-ethoxy]-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-ethyl ester in 1.5 mL of tetrahydrofuran was added 1.5 mL of 2N hydrochloric acid, and stirred at room temperature for 19 hours. Thereafter, the reaction solution was added with water and extracted twice ethyl acetate, and the resultant organic layer was washed once with saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography, to afford 87.1 mg of the title compound as a colorless oil.

reactant | 3-[(E)-2-(4-fluorophenyl)-vinyl]-4-[2-(tetrahydropyran-2-yloxy)-ethoxy]-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-ethyl ester | 147 mg | C(C)OC(=O)C=1C(=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)\C=C\C1=CC=C(C=C1)F)OCCOC1OCCCC1 | C30H35FN2O7
reactant | hydrochloric acid | 2N, 1.5 mL | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 3-[(E)-2-(4-Fluorophenyl)-vinyl]-4-(2-hydroxyethoxy)-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-ethyl ester | 87.1 mg | C(C)OC(=O)C=1C(=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)\C=C\C1=CC=C(C=C1)F)OCCO | C25H27FN2O6
